US06329405B1
(57a) N-[1-(3,4-Difluorophenyl)ethyl]-N-[(2-methoxy-5-nitrophenyl)-(3-methoxyphenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 600 mg of 2-methoxy-5-nitrophenyl 3-methoxyphenyl ketone, 809 mg of 1-(3,4-difluorophenyl)ethylamine hydrochloride, 1.75 ml of triethylamine, 0.28 ml of titanium tetrachloride, 583 mg of sodium cyanoborohydride and 0.18 ml of acetic acid were reacted, to obtain 830 mg of the title compound as a yellow foamy solid.

reactant | 2-methoxy-5-nitrophenyl 3-methoxyphenyl ketone | 600 mg | COC=1C=C(C=CC1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C15H13NO5
reactant | 1-(3,4-difluorophenyl)ethylamine hydrochloride | 809 mg | Cl.FC=1C=C(C=CC1F)C(C)N
reactant | triethylamine | 1.75 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 583 mg | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.28 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.18 ml | C(C)(=O)O | C2H4O2
product | N-[1-(3,4-Difluorophenyl)ethyl]-N-[(2-methoxy-5-nitrophenyl)-(3-methoxyphenyl)methyl]amine | 830 mg | FC=1C=C(C=CC1F)C(C)NC(C1=CC(=CC=C1)OC)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C23H22F2N2O4
